US07951810B2
N-[((2R,3S,4R,5R)-5-{6-[(4-fluorobenzyl)amino]-9H-purin-9-yl}-3,4-dihydroxytetrahydrofuran-2-yl)methyl]sulfamide (I-126)
A solution of N-{[(3aR,4R,6R,6aR)-6-(6-chloro-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methyl}sulfamide (25.0 mg, 0.0618 mmol), 4-fluorobenzylamine (14.1 μL, 0.124 mmol), and DIPEA (10.8 μL, 0.0618 mmol) in EtOH (0.4 mL) was heated at 100° C. for 10 minutes using microwave irradiation. Upon cooling, the mixture was concentrated and the residue dissolved in TFA/water (1 mL, 9:1). The solution was stirred for 10 minutes, concentrated, taken up in MeOH, then concentrated. The residue was purified by reverse phase HPLC to yield 6.5 mg (23%) of final compound.

reactant | N-{[(3aR,4R,6R,6aR)-6-(6-chloro-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methyl}sulfamide | 0.0618 mmol, 25.0 mg | ClC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CNS(=O)(=O)N | C13H17ClN6O5S
reactant | 4-fluorobenzylamine | 0.124 mmol, 14.1 μL | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | DIPEA | 0.0618 mmol, 10.8 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOH | 0.4 mL | CCO | C2H6O
product | N-[((2R,3S,4R,5R)-5-{6-[(4-fluorobenzyl)amino]-9H-purin-9-yl}-3,4-dihydroxytetrahydrofuran-2-yl)methyl]sulfamide | 6.5 mg, 23% | FC1=CC=C(CNC2=C3N=CN(C3=NC=N2)[C@H]2[C@@H]([C@@H]([C@H](O2)CNS(=O)(=O)N)O)O)C=C1 | C17H20FN7O5S
